### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Complex/Log.lean [hunk 1]
```diff
@@ -291,16 +291,16 @@ lemma Complex.HasSum_cexp_HasProd (f : ι → α → ℂ) (hfn : ∀ x n, f n x
...
+    Multipliable fun b ↦ f b a := by
   have := (Complex.HasSum_cexp_HasProd f hfn fun a => (hf a).hasSum) a
   use (∏' n : ι, (f n a))
 
 /--The exponential of a infinite sum of comples logs (which converges absolutely) is an infinite
 product.-/
 lemma Complex.cexp_tsum_eq_tprod (f : ι → α → ℂ) (hfn : ∀ x n, f n x ≠ 0)
     (hf : ∀ x : α, Summable fun n => log (f n x)) :
-      (cexp ∘ (fun a : α => (∑' n : ι, log (f n a)))) = (fun a : α => ∏' n : ι, ((f n a))) := by
+    (cexp ∘ (fun a : α => (∑' n : ι, log (f n a)))) = (fun a : α => ∏' n : ι, (f n a)) := by
```
Comment (b-mehta) [inline Mathlib/Analysis/SpecialFunctions/Complex/Log.lean:303]: I'd guess that one pair of parens on the RHS here aren't needed, maybe both?

File: Mathlib/Data/Finsupp/Weight.lean [hunk 2]
```diff
@@ -70,7 +70,7 @@ section AddCommMonoid
 
 variable [AddCommMonoid M]
 /-- The `weight` of the finitely supported function `f : σ →₀ ℕ`
-with respect to `w : σ → M` is the sum `∑(f i)•(w i)`. -/
+with respect to `w : σ → M` is the sum `∑ f i • w i`. -/
```
Comment (b-mehta) [inline Mathlib/Data/Finsupp/Weight.lean:73]:
```suggestion
with respect to `w : σ → M` is the sum `∑ i, f i • w i`. -/
```

File: Mathlib/Order/Defs.lean [hunk 3]
```diff
@@ -466,32 +466,32 @@ lemma max_def (a b : α) : max a b = if a ≤ b then b else a := by rw [LinearOr
...
   if h : a ≤ b
   then simp [max_def, if_pos h, le_refl]
-  else simp [max_def, if_neg h]; exact le_of_not_le h
+  else simp [max_def, if_neg h, le_of_not_le h]
 
 lemma max_le (h₁ : a ≤ c) (h₂ : b ≤ c) : max a b ≤ c := by
   if h : a ≤ b
-  then simp [max_def, if_pos h]; exact h₂
-  else simp [max_def, if_neg h]; exact h₁
+  then simp [max_def, if_pos h, h₂]
```
Comment (b-mehta) [inline Mathlib/Order/Defs.lean:493]: What do you think of changing something like this to `simpa [max_def, if_pos h] using h₂`? To me this seems a bit more robust and clearer

File: Mathlib/Order/Partition/Finpartition.lean [hunk 4]
```diff
@@ -264,7 +264,7 @@ instance [DecidableEq α] {s : Finset α} : Fintype (Finpartition s) where
   complete P := by
     refine mem_image.mpr ⟨P.parts, ?_, ?_⟩
     · rw [mem_powerset]; intro p hp; rw [mem_powerset]; exact P.le hp
-    · simp only [P.supIndep, P.sup_parts, P.not_bot_mem]; rfl
+    · simp only [P.supIndep, P.sup_parts, P.not_bot_mem, not_false_eq_true, and_self, ↓reduceDIte]
```
Comment (b-mehta) [inline Mathlib/Order/Partition/Finpartition.lean:267]: Since this is terminal, it might be nice to make it a `simp` call instead?

File: Mathlib/RingTheory/Norm/Basic.lean [hunk 5]
```diff
@@ -93,10 +93,10 @@ theorem norm_zero [Nontrivial S] [Module.Free R S] [Module.Finite R S] : norm R
 theorem norm_eq_zero_iff [IsDomain R] [IsDomain S] [Module.Free R S] [Module.Finite R S] {x : S} :
     norm R x = 0 ↔ x = 0 := by
   constructor
-  on_goal 1 => let b := Module.Free.chooseBasis R S
   swap
   · rintro rfl; exact norm_zero
-  · letI := Classical.decEq (Module.Free.ChooseBasisIndex R S)
+  · let b := Module.Free.chooseBasis R S
+    letI := Classical.decEq (Module.Free.ChooseBasisIndex R S)
```
Comment (b-mehta) [inline Mathlib/RingTheory/Norm/Basic.lean:99]:
```suggestion
    let := Classical.decEq (Module.Free.ChooseBasisIndex R S)
```

File: Mathlib/RingTheory/RootsOfUnity/Basic.lean [hunk 6]
```diff
@@ -664,7 +661,7 @@ def zmodEquivZPowers (h : IsPrimitiveRoot ζ k) : ZMod k ≃+ Additive (Subgroup
 @[simp]
 theorem zmodEquivZPowers_apply_coe_int (i : ℤ) :
     h.zmodEquivZPowers i = Additive.ofMul (⟨ζ ^ i, i, rfl⟩ : Subgroup.zpowers ζ) := by
-  rw [zmodEquivZPowers, AddEquiv.ofBijective_apply] -- Porting note: Original proof didn't have `rw`
```
Comment (b-mehta) [inline Mathlib/RingTheory/RootsOfUnity/Basic.lean:667]: While I think it's reasonable to remove the earlier two porting notes here, I'm a bit less sure about this one. It seems to suggest that the old proof was just the below `exact`, and that something isn't equal in the way it was before, suggesting something may have gone wrong. Does the `exact` proof work?

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 7]
```diff
@@ -286,7 +287,8 @@ lemma monotone_of_continuous (hf : Continuous f) : Monotone f := fun _ b hab ↦
     have hu : IsOpen (f ⁻¹' u) := (isOpen_compl_iff.2 isClosed_Iic).preimage hf
     rw [isOpen_iff_isUpperSet_and_dirSupInacc] at hu
     obtain ⟨c, hcd, hfcb⟩ := hu.2 d₁ d₂ d₃ h
-    simp [upperBounds] at hb
+    simp only [upperBounds, mem_image, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂,
+      mem_setOf] at hb
     exact hfcb <| hb _ hcd
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopology.lean:292]: Can we do a `simpa` here?

File: Mathlib/Data/Nat/Defs.lean [hunk 8]
```diff
@@ -644,7 +644,6 @@ lemma one_lt_pow' (n m : ℕ) : 1 < (m + 2) ^ (n + 1) :=
  | 0 => by simp [Nat.zero_pow (Nat.pos_of_ne_zero hn)]
  | 1 => by simp
  | a + 2 => by simp [one_lt_pow hn]
-  -- one_lt_pow_iff_of_nonneg (zero_le _) h
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Defs.lean:647]: Can we find the source of this? It looks like a mistakenly left in comment, but let's make sure it wasn't something meaningful when added

File: Mathlib/CategoryTheory/Bicategory/Adjunction.lean [hunk 9]
```diff
@@ -92,8 +92,6 @@ namespace Adjunction
 
 attribute [simp] left_triangle right_triangle
 
--- attribute [local simp] leftZigzag rightZigzag
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Bicategory/Adjunction.lean:95]: Can we find the source of this? Did it originally make some proofs nicer, or was it just mistakenly committed

File: Mathlib/Algebra/Ring/Aut.lean [hunk 10]
```diff
@@ -18,8 +18,8 @@ The definition of multiplication in the automorphism group agrees with function
 multiplication in `Equiv.Perm`, and multiplication in `CategoryTheory.End`, but not with
 `CategoryTheory.comp`.
 
-This file is kept separate from `Algebra/Ring/Equiv.lean` so that `GroupTheory.Perm` is free to use
-equivalences (and other files that use them) before the group structure is defined.
+This file is kept separate from `Mathlib/Algebra/Ring/Equiv.lean` so that `GroupTheory.Perm` is
```
Comment (b-mehta) [inline Mathlib/Algebra/Ring/Aut.lean:21]:
```suggestion
This file is kept separate from `Mathlib/Algebra/Ring/Equiv.lean` so that `Mathlib.GroupTheory.Perm` is
```

File: Mathlib/Algebra/Group/Aut.lean [hunk 11]
```diff
@@ -17,8 +17,8 @@ The definition of multiplication in the automorphism groups agrees with function
 multiplication in `Equiv.Perm`, and multiplication in `CategoryTheory.End`, but not with
 `CategoryTheory.comp`.
 
-This file is kept separate from `Algebra/Group/Equiv/*` so that `GroupTheory.Perm` is free to use
-equivalences (and other files that use them) before the group structure is defined.
+This file is kept separate from `Mathlib/Algebra/Group/Equiv/*` so that `GroupTheory.Perm` is free
```
Comment (b-mehta) [inline Mathlib/Algebra/Group/Aut.lean:20]:
```suggestion
This file is kept separate from `Mathlib/Algebra/Group/Equiv/*` so that `Mathlib.GroupTheory.Perm` is free
```

**Review by b-mehta — APPROVED** [review]

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
